US06232316B1
(4E)-5-(5-Methoxy-3-pyridyl)-4-penten-2-ol p-Toluenesulfonate
To a stirred solution of (4E)-5-(5-methoxy-3-pyridyl)-4-penten-2-ol (3.50 g, 18.13 mmol) in dry pyridine (15 mL) at 0° C. was added p-toluenesulfonyl chloride (6.91 g, 36.27 mmol). The reaction mixture was stirred for 24 h at ambient temperature. The pyridine was removed by rotary evaporation. Toluene (50 mL) was added to the residue and subsequently removed by rotary evaporation. The crude product was stirred with a saturated solution of sodium bicarbonate (100 mL) and extracted with chloroform (3×100 mL). The combined chloroform extracts were dried over sodium sulfate, filtered, and concentrated by rotary evaporation to give 5.25 g (83.5%) of a dark-brown, viscous oil.

reactant | (4E)-5-(5-methoxy-3-pyridyl)-4-penten-2-ol | 18.13 mmol, 3.50 g | COC=1C=C(C=NC1)/C=C/CC(C)O | C11H15NO2
reactant | p-toluenesulfonyl chloride | 36.27 mmol, 6.91 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | (4E)-5-(5-Methoxy-3-pyridyl)-4-penten-2-ol p-Toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OC(C)C\C=C\C=1C=NC=C(C1)OC)C | C18H21NO4S
